US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-[4-(2,6-difluorophenylcarbonyl)-amino phenyl]-pyrazine, CJS 502
Using Method LL with 2-(3,4,5-trimethoxyphenylamino)-6-(4-aminophenyloxy)-pyrazine (50 mg, 0.14 mmol) and 2,6-difluoro-phenylcarbonyl chloride (30 mg, 0.17 mmol), and purification by column chromatography (AcOEt), the title compound was obtained (21 mg). Yield: 30%. 1H NMR (250 MHz, DMSO-d6) δ 3.65 (s, 3H, [CH3O]4), 3.85 (s, 6H, [CH3O]3+5), 7.27 (s, 2H, Harom2′+6′), 7.45-7.47 (m, 1H, Harom 3″), 7.79-7.84 (m, 2H, Harom 4″+5″), 7.86 (d, 2H, Harom 3+5, J=8.3 Hz), 8.14 (s, 1H, HPz 5), 8.15 (d, 2H, Harom 2+6, J=6.7 Hz), 8.52 (s, 1H, HPz 3), 9.56 (s, 1H, NH), 10.61 (s, 1H, NHamide). m/z 493.2 [(M+H)+ calcd for C26H22F2N4O6 492.2].

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-(4-aminophenyloxy)-pyrazine | 0.14 mmol, 50 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC1=CC=C(C=C1)N | C19H20N4O4
reactant | 2,6-difluoro-phenylcarbonyl chloride | 0.17 mmol, 30 mg | FC1=C(C(=CC=C1)F)C(=O)Cl | C7H3ClF2O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(3,4,5-Trimethoxyphenylamino)-6-[4-(2,6-difluorophenylcarbonyl)-amino phenyl]-pyrazine | Yield: 30% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)C1=C(C=C(C=C1)C(=O)C1=C(C=CC=C1F)F)N | C26H22F2N4O4
